US06515021B1
(a) 3-Bromo-2-methoxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene
7 g (24.7 mmol) of 3-bromo-2-hydroxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene and 40 ml of DMF are introduced into a three-necked flask under a stream of nitrogen. 890 mg (29.6 mmol) of sodium hydride (80% in oil) are added portionwise and the mixture is stirred until the evolution of gas has ceased. 1.7 ml (27 mmol) of iodomethane are then added and the mixture is stirred at room temperature for one hour. The reaction medium is poured into water and extracted with ethyl ether, and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and evaporated. 7.3 g (99%) of the expected product are collected in the form of an oil which crystallizes slowly. Melting point 77-8° C.

reactant | 3-bromo-2-hydroxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene | 24.7 mmol, 7 g | BrC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)O | C14H19BrO
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 29.6 mmol, 890 mg | [H-].[Na+]
reactant | iodomethane | 27 mmol, 1.7 ml | IC | CH3I
solvent | water | O | H2O
product | 3-Bromo-2-methoxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene | BrC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)OC | C15H21BrO
